US03962227
To a solution of 19 g. (40 mmole) of p-nitrobenzyl 7-[2-(2-thienyl)acetamido]-2-hydroxy-3-cephem-4-carboxylate in 300 ml of dry DMF was added 15 g. (56 mmole) of phosphorus tribromide and the reaction mixture was stirred at room temperature overnight. The reaction mixture was poured into a mixture of ethyl acetate and water and the organic phase was separated and washed repeatedly with water and dried over magnesium sulfate. The dried organic phase was evaporated in vacuo to dryness. The crude reaction product residue weighing about 9 g. was purified by chromatography over 500 g. of silica gel using ethyl acetate-hexane (55:45 v:v) as eluent. The eluate was evaporated to dryness under reduced pressure and the product, p-nitrobenzyl 7-[2-(2-thienyl)acetamido]-3-bromo-3-cephem-4-carboxylate was obtained crystalline by triturating the dry residue with diethyl ether.

reactant | p-nitrobenzyl 7-[2-(2-thienyl)acetamido]-2-hydroxy-3-cephem-4-carboxylate | 40 mmole | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=CC(S2)O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C20H17N3O7S2
reactant | phosphorus tribromide | 56 mmole | P(Br)(Br)Br | Br3P
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
product | p-nitrobenzyl 7-[2-(2-thienyl)acetamido]-3-bromo-3-cephem-4-carboxylate | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)Br)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C20H16BrN3O6S2
